US09284331B2
Step 1: 9-propyl-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
90-1. To a degassed solution of 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (1.0 g, 2.82 mmol) and propylzinc(II)-bromide (14.1 mL, 7.05 mmol, 0.5M in THF) in dioxane (28 mL) was added PEPPSI-iPr (0.29 g, 0.424 mmol) under argon and the mixture was heated in a pressure vessel at 120° C. for 2.5 h. The reaction mixture was allowed to warm to rt and the solvent was removed under reduced pressure. The residue was suspended in DCM/MeOH (9:1, v/v), filtrated through a pad of celite and the filtrate was evaporated under reduced pressure. The crude product was purified by flash-column chromatography over silicagel (Biotage Isolera Four, eluent: from 1% MeOH in DCM to 10% MeOH in DCM in 35 min) to yield the product as an oil. The title compound was crystallized from diethyl ether to afford yellow crystals (370 mg). UPLC-MS: MS 271.2 (M+H+); UPLC rt 0.86 min.

reactant | 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 2.82 mmol, 1.0 g | IC1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C13H11IN2O2
reactant | propylzinc(II)-bromide | 7.05 mmol, 0.5M, 14.1 mL | [Br-].C(CC)[Zn+]
solvent | dioxane | 28 mL | O1CCOCC1 | C4H8O2
product | 9-propyl-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | C(CC)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H18N2O2
